US05175157
2-[(N-(3-(Naphth-2-yl)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 3-chloromethyl-N-[3-(naphth-2-yl)-propyl]-piperidine analogously to Example 2.

reactant | 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline | CC=1C=C2CCNC(C2=CC1C)=O | C11H13NO
reactant | 3-chloromethyl-N-[3-(naphth-2-yl)-propyl]-piperidine | ClCC1CN(CCC1)CCCC1=CC2=CC=CC=C2C=C1 | C19H24ClN
product | 2-[(N-(3-(Naphth-2-yl)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)CCCN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)C)C)=O | InChI=1S/C30H36N2O.ClH/c1-22-17-28-13-16-32(30(33)29(28)18-23(22)2)21-25-8-6-15-31(20-25)14-5-7-24-11-12-26-9-3-4-10-27(26)19-24;/h3-4,9-12,17-19,25H,5-8,13-16,20-21H2,1-2H3;1H
